US04791110
3,6-dichloro-4-isopropylpyridazine
Fifty g. of 3,6-dichloropyridazine was slurried in 500 ml. of water with 28.5 g. of silver nitrate and 66.5 g. of isobutyric acid at 50°. Five hundred ml. of water and 98.6 g. of sulfuric acid were added, and the mixture was heated to 60°. To it was added 228 g. of ammonium persulfate, dissolved in 500 ml. of water. The mixture warmed to 75° as the persulfate was slowly added, and after the addition the mixture was cooled to 10° and ice was added to it. The pH was then adjusted to 9-10 with ammonium hydroxide, and the mixture was extracted three times with 400 ml. portions of diethyl ether. The organic layers were combined and washed twice with 400 ml. portions of 0.5N sodium hydroxide. The organic layer was then washed with brine, dried over magnesium sulfate, and evaporated under vacuum to obtain 52 g. of impure product. It was chromatographed by high performance liquid chromatography, eluting with 5:1 hexane:ethyl acetate, and the desired product was obtained as an oil, amounting to 25 g.

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-]
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
solvent | water | O | H2O
product | 3,6-dichloro-4-isopropylpyridazine | ClC=1N=NC(=CC1C(C)C)Cl | C7H8Cl2N2
